US06589977B1
Potassium carbonate (140 mg, 0.98 mmol) and methyl iodide (0.06 mL, 0.98 mmol) were added under ice cooling to 2-bromo-3-(1H-indol-3-yl)-N-methylmaleimide (100 mg, 0.33 mmol) synthesized according to a known method (Tetrahedron, Vol. 44, p. 2887, 1988) and dissolved in DMF (5 mL), and the whole was stirred for 2 hours. The reaction mixture was warmed to room temperature, added with saturated aqueous sodium chloride solution, and extracted with ethyl acetate. The extract was dried over sodium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=1:1) to obtain 2-bromo-3-(1-methyl-1H-indol-3-yl)-N-methylmaleimide (99 mg, 95.1%) as red solids.

reactant | Potassium carbonate | 0.98 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.98 mmol, 0.06 mL | CI | CH3I
reactant | 2-bromo-3-(1H-indol-3-yl)-N-methylmaleimide | 0.33 mmol, 100 mg | BrC=1C(=O)N(C(C1C1=CNC2=CC=CC=C12)=O)C | C13H9BrN2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-bromo-3-(1-methyl-1H-indol-3-yl)-N-methylmaleimide | 99 mg, 95.1% | BrC=1C(=O)N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C | C14H11BrN2O2
